US07238716B2
To a solution of methyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolecarboxylate (7.86 g) in tetrahydrofuran (150 mL) was slowly added diisobutylaluminum hydride (1.0 M tetrahydrofuran solution, 60 mL) at 0° C. and the mixture was stirred at room temperature for 30 min. The reaction mixture was poured into dilute hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethanol (5.93 g, yield 86%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 99-100° C.

reactant | methyl 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolecarboxylate | 7.86 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)C(=O)OC | C16H14N2O5
reactant | diisobutylaluminum hydride | 1.0 M, 60 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethanol | 5.93 g, yield 86% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)CO | C15H14N2O4
